US07244843B2
Step E. Preparation of (3S,11aR)-1,2,3,4,11,11a-Hexahydro-2-benzyl-3-methyl-pyrazino[1,2-b]isoquinolin-6-one
A mixture of (2S,5R)-methyl 2,4-dibenzyl-5-methylpiperazine-1-carboxylate (0.28 g, 0.83 mmol), phosphorous oxychloride (5.0 ml) and phosphorous pentoxide (0.48 g, 1.6 mmol) was stirred at 100° C. under nitrogen overnight. The reaction was removed from the heat, quenched with ice, and brought to pH 7 to 8 with 1 N NaOH. Extraction with EtOAc (3×) and washing the combined organic layers with brine and drying over MgSO4 afforded 0.11 g of crude product after evaporation of the solvent. Flash chromatography (SiO2, CH2Cl2 to 60% EtOAc in CH2Cl2) afforded pure product (47 mg, 19% yield). MS (ESI) 307 (M+H).

reactant | (2S,5R)-methyl 2,4-dibenzyl-5-methylpiperazine-1-carboxylate | 0.83 mmol, 0.28 g | C(C1=CC=CC=C1)[C@@H]1N(C[C@H](N(C1)CC1=CC=CC=C1)C)C(=O)OC | C21H26N2O2
reactant | phosphorous oxychloride | 5.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous pentoxide | 1.6 mmol, 0.48 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3S,11aR)-1,2,3,4,11,11a-Hexahydro-2-benzyl-3-methyl-pyrazino[1,2-b]isoquinolin-6-one | 47 mg, 19% yield | C(C1=CC=CC=C1)N1C[C@@H]2N(C(C=3C=CC=CC3C2)=O)C[C@@H]1C | C20H22N2O
